US08623877B2
7-((2S,3′S)-2-Methyl-1,3′-bipyrrolidinyl-1′-yl)-2,3,4,5-tetrahydro-1H-3-benzazepine
Hydrobromic acid in acetic acid (28.4 mL of 33% by weight) was added to 7-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid methyl ester (700 mg, 1.96 mmol) and the mixture was stirred at ambient temperature for 24 h. The volatiles were removed in vacuo, and the residue was basified with saturated sodium bicarbonate solution and extracted into ethyl acetate (3×). The combined organic layers were washed with brine, dried over Magnesium sulfate, filtered and concentrated to leave 584 mg of an oil. This material was purified by column chromatography on silica gel (24 g SiO2, Analogix column) eluting @ 30 mL/min as follows: dichloromethane (containing 2% triethylamine for 5 min. then stepped to 85/15 dichloromethane (containing 2% triethylamine)/methanol in a linear gradient over 10 min to obtain 473 mg of the title compound as an oil.

reactant | Hydrobromic acid | Br | BrH
reactant | 7-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid methyl ester | 1.96 mmol, 700 mg | COC(=O)N1CCC2=C(CC1)C=C(C=C2)N2C[C@H](CC2)N2[C@H](CCC2)C | C21H31N3O2
solvent | acetic acid | 28.4 mL | C(C)(=O)O | C2H4O2
product | 7-((2S,3′S)-2-Methyl-1,3′-bipyrrolidinyl-1′-yl)-2,3,4,5-tetrahydro-1H-3-benzazepine | 584 mg | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C1=CC2=C(CCNCC2)C=C1 | C19H29N3
